* NGSPICE file created from ip_line_mux.ext - technology: gf180mcuD

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkbuf_3 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkbuf_3 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_1 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__filltie abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__filltie VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_2 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor2_1 A1 A2 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor4_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor4_2 A1 A2 A3 A4 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__endcap abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__endcap VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkinv_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkinv_1 I ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor3_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor3_1 A1 A2 A3 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__dlyb_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__dlyb_1 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_8 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_8 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__buf_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__buf_1 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_4 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_4 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nand3_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nand3_1 A1 A2 A3 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nand2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nand2_1 A1 A2 ZN VDD VNW VPW VSS
.ends

.subckt ip_line_mux A[0] A[1] A[2] A[3] VDD VSS Y[0] Y[10] Y[11] Y[12] Y[13] Y[14]
+ Y[15] Y[1] Y[2] Y[3] Y[4] Y[5] Y[6] Y[7] Y[8] Y[9]
Xwire18 _12_/ZN Y[2] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
XFILLER_3_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XTAP_TAPCELL_ROW_2_14 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xwire19 _11_/ZN Y[1] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
XFILLER_2_145 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XTAP_TAPCELL_ROW_2_15 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_2_126 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_1_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_27_ _27_/A1 _27_/A2 wire5/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
X_26_ _27_/A1 _26_/A2 _26_/A3 _26_/A4 wire6/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_2
XFILLER_1_72 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_1_50 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_0_Left_4 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_08_ _08_/I _26_/A3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
X_25_ _27_/A1 _25_/A2 _25_/A3 _26_/A4 wire7/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_2
X_09_ _09_/I _26_/A4 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XPHY_EDGE_ROW_1_Right_1 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_07_ _07_/I _25_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XFILLER_2_107 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_24_ _27_/A1 _07_/I _08_/I _26_/A4 wire8/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_2
X_06_ _06_/I _27_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XTAP_TAPCELL_ROW_0_10 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_23_ _27_/A1 _09_/I _23_/A3 wire9/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
XTAP_TAPCELL_ROW_0_11 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_22_ _27_/A1 _07_/I _26_/A3 _09_/I _22_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_2
Xfanout21 _25_/A3 _08_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
X_21_ _27_/A1 _25_/A2 _08_/I _09_/I _21_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_2
Xfanout22 _26_/A2 _07_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlyb_1
XFILLER_1_156 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
X_20_ _27_/A1 _07_/I _08_/I _09_/I _20_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_2
Xinput1 A[0] _26_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xinput2 A[1] _25_/A3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_1_69 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_1_Left_5 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xinput4 A[3] _06_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xinput3 A[2] _09_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_0_Right_0 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_3_16 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XTAP_TAPCELL_ROW_3_17 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_0_160 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XTAP_TAPCELL_ROW_3_18 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XTAP_TAPCELL_ROW_3_19 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_2_86 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_2_Left_6 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_0_152 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_0_131 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XTAP_TAPCELL_ROW_0_8 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_19_ _06_/I _27_/A2 _19_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XTAP_TAPCELL_ROW_0_9 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_3_142 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_18_ _07_/I _08_/I _09_/I _27_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand3_1
XTAP_TAPCELL_ROW_1_13 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XTAP_TAPCELL_ROW_1_12 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_0_135 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_17_ _06_/I _07_/I _26_/A3 _26_/A4 _17_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_2
XPHY_EDGE_ROW_3_Right_3 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_3_133 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_2_37 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_16_ _06_/I _25_/A2 _08_/I _26_/A4 _16_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_2
Xwire5 wire5/I Y[15] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
Xwire20 _10_/ZN Y[0] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
X_15_ _06_/I _07_/I _08_/I _26_/A4 _15_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_2
XFILLER_0_104 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_3_135 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xwire10 _22_/ZN Y[10] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
XPHY_EDGE_ROW_3_Left_7 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xwire6 wire6/I Y[14] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
XFILLER_2_39 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xwire11 _21_/ZN Y[9] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
X_14_ _06_/I _09_/I _23_/A3 _14_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
XFILLER_3_125 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_3_104 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_13_ _07_/I _08_/I _23_/A3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
Xwire12 _20_/ZN Y[8] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
Xwire7 wire7/I Y[13] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
XFILLER_0_106 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_12_ _06_/I _07_/I _26_/A3 _09_/I _12_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_2
XFILLER_3_138 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xwire13 _19_/ZN Y[7] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
Xwire8 wire8/I Y[12] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
X_11_ _06_/I _25_/A2 _08_/I _09_/I _11_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_2
XFILLER_3_106 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_2_161 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_10_ _06_/I _07_/I _08_/I _09_/I _10_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_2
Xwire9 wire9/I Y[11] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
Xwire14 _17_/ZN Y[6] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
Xwire15 _16_/ZN Y[5] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
XFILLER_3_53 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_2_Right_2 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_163 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_2_141 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xwire16 _15_/ZN Y[4] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
Xwire17 _14_/ZN Y[3] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_3
.ends

