* NGSPICE file created from ip_line_mux.ext - technology: gf180mcuD

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_4 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_4 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__filltie abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__filltie VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__buf_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__buf_1 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkbuf_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkbuf_2 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_16 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_16 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_2 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_1 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_8 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_8 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor2_1 A1 A2 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor4_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor4_1 A1 A2 A3 A4 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__endcap abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__endcap VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkinv_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkinv_1 I ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor3_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor3_1 A1 A2 A3 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__dlya_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__dlya_1 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nand3_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nand3_1 A1 A2 A3 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nand2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nand2_1 A1 A2 ZN VDD VNW VPW VSS
.ends

.subckt ip_line_mux A[0] A[1] A[2] A[3] VDD VSS Y[0] Y[10] Y[11] Y[12] Y[13] Y[14]
+ Y[15] Y[1] Y[2] Y[3] Y[4] Y[5] Y[6] Y[7] Y[8] Y[9]
XFILLER_3_24 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XTAP_TAPCELL_ROW_2_13 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xoutput7 _23_/ZN Y[11] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput20 _21_/ZN Y[9] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
XFILLER_3_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
Xoutput10 _26_/ZN Y[14] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
Xoutput8 _24_/ZN Y[12] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_0_36 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_2_123 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xoutput11 _27_/ZN Y[15] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput9 _25_/ZN Y[13] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
Xoutput12 _11_/ZN Y[1] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
XFILLER_0_16 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_2_104 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_1_60 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xoutput13 _12_/ZN Y[2] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
XFILLER_1_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_2_127 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
Xoutput14 _14_/ZN Y[3] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_27_ _27_/A1 _27_/A2 _27_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
X_26_ _27_/A1 _26_/A2 _26_/A3 _26_/A4 _26_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XPHY_EDGE_ROW_0_Left_4 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_09_ _09_/I _26_/A4 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XPHY_EDGE_ROW_1_Right_1 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_25_ _27_/A1 _25_/A2 _25_/A3 _26_/A4 _25_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
X_08_ _08_/I _26_/A3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
Xoutput15 _15_/ZN Y[4] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_24_ _27_/A1 _07_/I _08_/I _26_/A4 _24_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
X_07_ _07_/I _25_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XFILLER_2_107 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
Xoutput17 _17_/ZN Y[6] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
Xoutput16 _16_/ZN Y[5] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkbuf_2
Xoutput18 _19_/ZN Y[7] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_06_ _06_/I _27_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XTAP_TAPCELL_ROW_0_10 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_1_98 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_23_ _27_/A1 _09_/I _23_/A3 _23_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
XFILLER_1_10 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xoutput19 _20_/ZN Y[8] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_22_ _27_/A1 _07_/I _26_/A3 _09_/I _22_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
Xfanout21 _25_/A3 _08_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlya_1
X_21_ _27_/A1 _25_/A2 _08_/I _09_/I _21_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XFILLER_1_56 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
Xinput1 A[0] _26_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_1_122 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_20_ _27_/A1 _07_/I _08_/I _09_/I _20_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
Xfanout22 _26_/A2 _07_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__dlya_1
Xinput2 A[1] _25_/A3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XTAP_TAPCELL_ROW_3_14 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_1_Left_5 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xinput4 A[3] _06_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xinput3 A[2] _09_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XTAP_TAPCELL_ROW_3_15 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XPHY_EDGE_ROW_0_Right_0 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_1_114 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XTAP_TAPCELL_ROW_3_16 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_2_96 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_2_63 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XPHY_EDGE_ROW_2_Left_6 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_16
XTAP_TAPCELL_ROW_0_8 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_0_100 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_19_ _06_/I _27_/A2 _19_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor2_1
XTAP_TAPCELL_ROW_1_11 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XTAP_TAPCELL_ROW_0_9 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_3_120 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
X_18_ _07_/I _08_/I _09_/I _27_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand3_1
XFILLER_2_67 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_0_124 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_17_ _06_/I _07_/I _26_/A3 _26_/A4 _17_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XPHY_EDGE_ROW_3_Right_3 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_16_ _06_/I _25_/A2 _08_/I _26_/A4 _16_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XFILLER_2_26 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_3_112 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_3_101 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_15_ _06_/I _07_/I _08_/I _26_/A4 _15_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XFILLER_0_104 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
XFILLER_0_70 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_3_93 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
X_14_ _06_/I _09_/I _23_/A3 _14_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
XPHY_EDGE_ROW_3_Left_7 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_2_28 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_3_104 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
X_13_ _07_/I _08_/I _23_/A3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
XFILLER_2_18 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_8
XFILLER_0_128 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_12_ _06_/I _07_/I _26_/A3 _09_/I _12_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
X_11_ _06_/I _25_/A2 _08_/I _09_/I _11_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XFILLER_3_128 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_10_ _06_/I _07_/I _08_/I _09_/I _10_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XFILLER_3_76 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_2_Right_2 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xoutput6 _22_/ZN Y[10] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XTAP_TAPCELL_ROW_2_12 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
Xoutput5 _10_/ZN Y[0] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
.ends

